US04533731
The same procedures for preparing 1-(3-diethylaminopropyl)-3-amino-4-chloroindazole as described in Example 89 were repeated except that 4.78 g of 3-bromopropylpyrrolidine hydrobromide and 5.66 g of 3-amino-5-chloroindazole were employed instead of the 3-bromopropyldiethylamine hydrobromide and the 3-amino-4-chloroindazole, respectively. As a result, 4.98 g of 1-(3-pyrrolidinopropyl)-3-amino-5-chloroindazole was obtained.

reactant | 1-(3-diethylaminopropyl)-3-amino-4-chloroindazole | C(C)N(CCCN1N=C(C2=C(C=CC=C12)Cl)N)CC | C14H21ClN4
reactant | 3-bromopropylpyrrolidine hydrobromide | 4.78 g | Br.BrCCCN1CCCC1
reactant | 3-amino-5-chloroindazole | 5.66 g | NC1=NNC2=CC=C(C=C12)Cl | C7H6ClN3
reactant | 3-bromopropyldiethylamine hydrobromide | Br.BrCCCN(CC)CC
reactant | 3-amino-4-chloroindazole | NC1=NNC2=CC=CC(=C12)Cl | C7H6ClN3
product | 1-(3-pyrrolidinopropyl)-3-amino-5-chloroindazole | 4.98 g | N1(CCCC1)CCCN1N=C(C2=CC(=CC=C12)Cl)N | C14H19ClN4
